US07138410B2
N-[3′-(Acetylamino)-1,1′-biphenyl-4-yl]-2-(1-azabicyclo[2.2.2]oct-3-yl)acetamide Hydrochloride
43.8 mg (0.24 mmol) of 3-(acetamido)phenylboronic acid, 0.33 ml (0.66 mmol) of 2M aqueous sodium carbonate solution and 8.1 mg (0.01 mmol) of 1,1′-bis(diphenylphosphino)ferrocenepalladium(II) chloride are added to a solution of 80 mg (0.22 mmol) of 2-(1-azabicyclo[2.2.2]oct-3-yl)-N-(4-bromophenyl)acetamide hydrochloride in 1.5 ml of DMF. The reaction mixture is stirred at 80° C. for 0.14 h, cooled, filtered through kieselguhr and then purified by preparative HPLC. The product fractions are concentrated, taken up in methanol, mixed with 4M HCl in dioxane and again concentrated. Drying under high vacuum results in 23 mg (20% of theory) of the title compound.

reactant | 3-(acetamido)phenylboronic acid | 0.24 mmol, 43.8 mg | C(C)(=O)NC=1C=C(C=CC1)B(O)O | C8H10BNO3
reactant | sodium carbonate | 0.66 mmol, 2M, 0.33 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-(1-azabicyclo[2.2.2]oct-3-yl)-N-(4-bromophenyl)acetamide hydrochloride | 0.22 mmol, 80 mg | Cl.N12CC(C(CC1)CC2)CC(=O)NC2=CC=C(C=C2)Br
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
catalyst | 1,1′-bis(diphenylphosphino)ferrocenepalladium(II) chloride | 0.01 mmol, 8.1 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-[3′-(Acetylamino)-1,1′-biphenyl-4-yl]-2-(1-azabicyclo[2.2.2]oct-3-yl)acetamide Hydrochloride | Cl.C(C)(=O)NC=1C=C(C=CC1)C1=CC=C(C=C1)NC(CC1CN2CCC1CC2)=O | InChI=1S/C23H27N3O2.ClH/c1-16(27)24-22-4-2-3-19(13-22)17-5-7-21(8-6-17)25-23(28)14-20-15-26-11-9-18(20)10-12-26;/h2-8,13,18,20H,9-12,14-15H2,1H3,(H,24,27)(H,25,28);1H
